US06653330B2
4′-Carbamoyl-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzanilide (Exemplification Compound Number 24-1)
In the same manner as that described in Example 3(4), a reaction was carried out using commercially available p-aminobenzamide (162 mg, 1.2 mmol), trimethylaluminium (2.2 ml, 1.07M n-hexane solution, 2.4 mmol) and methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate (150 mg, 0.30 mmol), obtained in Example 12(1), and the reaction mixture was treated using a similar procedure to that described in Example 3(4) to afford the title compound (66 mg, yield 37%) as a white solid which was recrystallized from ethyl acetate-hexane to give pale orange powdery crystals.

reactant | p-aminobenzamide | 1.2 mmol, 162 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | trimethylaluminium | 2.4 mmol, 1.07M, 2.2 ml | C[Al](C)C
reactant | methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate | 0.30 mmol, 150 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)OC)C=C1)(CN1N=CN=C1)O | C24H25F2N3O5S
product | 4′-Carbamoyl-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzanilide | 66 mg, yield 37% | C(N)(=O)C1=CC=C(NC(C2=CC=C(C=C2)[C@@H]2OC[C@H](CO2)S[C@@H]([C@@](CN2N=CN=C2)(O)C2=C(C=C(C=C2)F)F)C)=O)C=C1 | C30H29F2N5O5S
